US07855194B2
2-(Piperidin-4-ylamino)-4-trifluoromethyl-pyrimidine-5-carboxylic acid (4-chloro-phenyl)-amide dihydrochloride
A solution of 4-[5-(4-chloro-phenylcarbamoyl)-4-trifluoromethyl-pyrimidin-2-ylamino]-piperidine-1-carboxylic acid tert-butyl ester (1.0 g, 2.00 mmol) in 4 M HCl in dioxane (20 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 400.1 [M+H]+.

reactant | 4-[5-(4-chloro-phenylcarbamoyl)-4-trifluoromethyl-pyrimidin-2-ylamino]-piperidine-1-carboxylic acid tert-butyl ester | 2.00 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=C(C(=N1)C(F)(F)F)C(NC1=CC=C(C=C1)Cl)=O | C22H25ClF3N5O3
solvent | HCl | 4 M | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 2-(Piperidin-4-ylamino)-4-trifluoromethyl-pyrimidine-5-carboxylic acid (4-chloro-phenyl)-amide dihydrochloride | Cl.Cl.ClC1=CC=C(C=C1)NC(=O)C=1C(=NC(=NC1)NC1CCNCC1)C(F)(F)F | InChI=1S/C17H17ClF3N5O.2ClH/c18-10-1-3-11(4-2-10)24-15(27)13-9-23-16(26-14(13)17(19,20)21)25-12-5-7-22-8-6-12;;/h1-4,9,12,22H,5-8H2,(H,24,27)(H,23,25,26);2*1H
